US04866205
Optically Active [3aR-[3]alpha,4alpha(1S*,2E),5beta,6a alpha-]]-4-[1-(acetyloxy)-4,4-dimethyl-2-octenyl]-hexahydro-5-methyl-2H-cyclopenta[b]furan-2-one
Following the procedure of example VII, 48.9 g, of crude, optically active [3aR-[3a alpha,4alpha(1S*,2E), 5beta,6a alpha-]]-4-[1-(hydroxy)-4,4-dimethyl-2-octenyl]hexahydro-5-methyl-2H-cyclopenta[b]furan-2-one was acetylated with 60 ml of acetic anhydride and 0.5 g of 4-dimethylaminopyridine in 400 ml of ethyl acetate. The product was crystallized from 60 ml of hexane giving 30.05 g of optically active [3aR-[3alpha,4alpha(1S*,2E),5beta,6a alpha-]]-4-[1-(acetyloxy)-4,4-dimethyl-2-octentyl]-hexahydro- 5-methyl-2H-cyclopenta[b]furan-2-one in colorless crystals with mp 83°-83.5°.

reactant | 4-[1-(hydroxy)-4,4-dimethyl-2-octenyl]hexahydro-5-methyl-2H-cyclopenta[b]furan-2-one | OC(C=CC(CCCC)(C)C)C1C(CC2OC(CC21)=O)C | C18H30O3
reactant | acetic anhydride | 60 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 4-[1-(acetyloxy)-4,4-dimethyl-2-octenyl]-hexahydro-5-methyl-2H-cyclopenta[b]furan-2-one | C(C)(=O)OC(C=CC(CCCC)(C)C)C1C(CC2OC(CC21)=O)C | C20H32O4
